US07645784B2
2-(2-Hydroxyethylamino)-3-nitrobenzoic acid (5.14 g, 22.7 mmol) was dissolved in methanol (200 mL) and concentrated H2SO4 (10 mL) was added. The mixture was heated at reflux for 2.5 h. The solvent was removed at reduced pressure. The residue was treated with water (100 ml) and extracted with ethyl acetate (3×150 mL). The combined organic phase was dried and concentrated. Purification by column chromatography on silica using heptane ethyl acetate 1:1 as an eluent afforded methyl 2-[(2-hydroxyethyl)amino]-3-nitrobenzoate, 3.92 g (72%). MS NISI) m/z 241 [M+H]. 1H NMR (400 MHz, CDCI3) δ ppm 3.12 (t, J=5.10 Hz, 2H), 3.84 (t, J=5.15 Hz, 2H), 3.91 (s, 3H), 6.69 (t, J=7.96 Hz, 1H), 7.95 (dd, J=8.34, 1.52 Hz, 1H), 8.08 (dd, J=7.83, 1.52 Hz, 1H).

reactant | 2-(2-Hydroxyethylamino)-3-nitrobenzoic acid | 22.7 mmol, 5.14 g | OCCNC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C9H10N2O5
reactant | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 200 mL | CO | CH4O
product | methyl 2-[(2-hydroxyethyl)amino]-3-nitrobenzoate | OCCNC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C10H12N2O5
